US07947676B2
2-[(4-{[4-(benzyloxy)-3-methylphenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethanol
The procedure described in Example 1 was repeated using N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (2.0 g, 8.96 mmol) and 3-methyl-4-benzyloxyaniline (2.1 g, 9.87 mmol) to give the title compound as a white solid (2.25 g, 64%); NMR Spectrum: 2.23 (s, 3H), 3.79 (t, 2H), 4.30 (t, 2H), 5.15 (s, 2H), 7.03 (d, 1H), 7.32-7.48 (m, 7H), 8.21 (s, 1H), 8.33 (s, 1H); Mass Spectrum: 392 (MH+).

reactant | N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 8.96 mmol, 2.0 g | C(#N)C=1C(=NNC1N=CN(C)C)OCCO | C9H13N5O2
reactant | 3-methyl-4-benzyloxyaniline | 9.87 mmol, 2.1 g | CC=1C=C(N)C=CC1OCC1=CC=CC=C1 | C14H15NO
product | 2-[(4-{[4-(benzyloxy)-3-methylphenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethanol | 2.25 g, 64% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC1=C2C(=NC=N1)NN=C2OCCO)C | C21H21N5O3
